US07399759B2
2-[6-(Isopentylthio)-2-pyridyl]-4H-1,3-benzothiazine-4-one
A mixture of methyl thiosalicylate (1.21 g, 7.2 mmol), 2-cyano-6-isopentylthiopyridine (1.48 g, 7.2 mmol), triethylamine (1.5 ml, 10.8 mmol) and toluene (30 ml) was refluxed for 48 hrs. The reaction mixture was concentrated under reduced pressure to give the precipitated crystals, which were recrystallized from ethyl acetate-hexane to give the titled compound (0.64 g, 26%).

reactant | methyl thiosalicylate | 7.2 mmol, 1.21 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | 2-cyano-6-isopentylthiopyridine | 7.2 mmol, 1.48 g | C(#N)C1=NC(=CC=C1)SCCC(C)C | C11H14N2S
reactant | triethylamine | 10.8 mmol, 1.5 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[6-(Isopentylthio)-2-pyridyl]-4H-1,3-benzothiazine-4-one | 0.64 g, 26% | C(CC(C)C)SC1=CC=CC(=N1)C=1SC2=C(C(N1)=O)C=CC=C2 | C18H18N2OS2
